US04424230
A solution of benzyl 6-(1-hydroxyethyl)-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (48 mg) in anhydrous DMF (1 ml) is cooled in an ice bath and stirred while triethylamine (28 μl) and propylamine (12.4 μl) are added. The resulting solution is allowed to warm to room temperature (25° C.) and kept there for 1 hour. The solution is diluted with ethyl acetate (10 ml), washed with water (5×2 ml), pH 3 phosphate buffer (2 ml), 5% NaHCO3 (2 ml), and brine, dried with MgSO4, filtered, and evaporated in vacuo to provide benzyl 6-(1-hydroxyethyl)-3-propylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-(1-hydroxyethyl)-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 48 mg | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl | C16H16ClNO4
reactant | triethylamine | 28 μl | C(C)N(CC)CC | C6H15N
reactant | propylamine | 12.4 μl | C(CC)N | C3H9N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | benzyl 6-(1-hydroxyethyl)-3-propylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)NCCC | C19H24N2O4
